*** SPICE deck for cell 8to1-mux-tg-schematic{sch} from library 8to1-mux-tg
*** Created on Tue Oct 24, 2023 10:26:58
*** Last revised on Fri Oct 27, 2023 13:03:19
*** Written on Fri Oct 27, 2023 13:03:30 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd vdd

*** TOP LEVEL CELL: 8to1-mux-tg-schematic{sch}
Mnmos@1 D7 S2 net@0 gnd N L=0.35U W=1.4U
Mnmos@2 net@0 S1 net@14 gnd N L=0.35U W=1.4U
Mnmos@3 net@14 S0 Y gnd N L=0.35U W=1.4U
Mnmos@4 net@44 S2 gnd gnd N L=0.35U W=1.4U
Mnmos@5 net@45 S1 gnd gnd N L=0.35U W=1.4U
Mnmos@6 net@46 S0 gnd gnd N L=0.35U W=1.4U
Mnmos@7 D6 S2 net@133 gnd N L=0.35U W=1.4U
Mnmos@8 net@133 S1 net@134 gnd N L=0.35U W=1.4U
Mnmos@9 net@134 net@46 Y gnd N L=0.35U W=1.4U
Mnmos@10 D5 S2 net@165 gnd N L=0.35U W=1.4U
Mnmos@11 net@165 net@45 net@166 gnd N L=0.35U W=1.4U
Mnmos@12 net@166 S0 Y gnd N L=0.35U W=1.4U
Mnmos@13 D4 S2 net@197 gnd N L=0.35U W=1.4U
Mnmos@14 net@197 net@45 net@198 gnd N L=0.35U W=1.4U
Mnmos@15 net@198 net@46 Y gnd N L=0.35U W=1.4U
Mnmos@16 D3 net@44 net@229 gnd N L=0.35U W=1.4U
Mnmos@17 net@229 S1 net@230 gnd N L=0.35U W=1.4U
Mnmos@18 net@230 S0 Y gnd N L=0.35U W=1.4U
Mnmos@19 D2 net@44 net@261 gnd N L=0.35U W=1.4U
Mnmos@20 net@261 S1 net@262 gnd N L=0.35U W=1.4U
Mnmos@21 net@262 net@46 Y gnd N L=0.35U W=1.4U
Mnmos@22 D1 net@44 net@293 gnd N L=0.35U W=1.4U
Mnmos@23 net@293 net@45 net@294 gnd N L=0.35U W=1.4U
Mnmos@24 net@294 S0 Y gnd N L=0.35U W=1.4U
Mnmos@25 D0 net@44 net@325 gnd N L=0.35U W=1.4U
Mnmos@26 net@325 net@45 net@326 gnd N L=0.35U W=1.4U
Mnmos@27 net@326 net@46 Y gnd N L=0.35U W=1.4U
Mpmos@1 D7 net@44 net@0 vdd P L=0.35U W=1.4U
Mpmos@2 net@0 net@45 net@14 vdd P L=0.35U W=1.4U
Mpmos@3 net@14 net@46 Y vdd P L=0.35U W=1.4U
Mpmos@4 net@44 S2 vdd vdd P L=0.35U W=1.4U
Mpmos@5 net@45 S1 vdd vdd P L=0.35U W=1.4U
Mpmos@6 net@46 S0 vdd vdd P L=0.35U W=1.4U
Mpmos@7 D6 net@44 net@133 vdd P L=0.35U W=1.4U
Mpmos@8 net@133 net@45 net@134 vdd P L=0.35U W=1.4U
Mpmos@9 net@134 S0 Y vdd P L=0.35U W=1.4U
Mpmos@10 D5 net@44 net@165 vdd P L=0.35U W=1.4U
Mpmos@11 net@165 S1 net@166 vdd P L=0.35U W=1.4U
Mpmos@12 net@166 net@46 Y vdd P L=0.35U W=1.4U
Mpmos@13 D4 net@44 net@197 vdd P L=0.35U W=1.4U
Mpmos@14 net@197 S1 net@198 vdd P L=0.35U W=1.4U
Mpmos@15 net@198 S0 Y vdd P L=0.35U W=1.4U
Mpmos@16 D3 S2 net@229 vdd P L=0.35U W=1.4U
Mpmos@17 net@229 net@45 net@230 vdd P L=0.35U W=1.4U
Mpmos@18 net@230 net@46 Y vdd P L=0.35U W=1.4U
Mpmos@19 D2 S2 net@261 vdd P L=0.35U W=1.4U
Mpmos@20 net@261 net@45 net@262 vdd P L=0.35U W=1.4U
Mpmos@21 net@262 S0 Y vdd P L=0.35U W=1.4U
Mpmos@22 D1 S2 net@293 vdd P L=0.35U W=1.4U
Mpmos@23 net@293 S1 net@294 vdd P L=0.35U W=1.4U
Mpmos@24 net@294 net@46 Y vdd P L=0.35U W=1.4U
Mpmos@25 D0 S2 net@325 vdd P L=0.35U W=1.4U
Mpmos@26 net@325 S1 net@326 vdd P L=0.35U W=1.4U
Mpmos@27 net@326 S0 Y vdd P L=0.35U W=1.4U

* Spice Code nodes in cell cell '8to1-mux-tg-schematic{sch}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
*
*For logic simulation:
*Select lines:
VS2 S2 0 DC 0
VS1 S1 0 DC 0
VS0 S0 0 DC 0
*
*Inputs:
VD0 D0 0 PULSE(3.3 0 0 1n 1n 500n 1000n)
VD1 D1 0 DC 0
VD2 D2 0 DC 0
VD3 D3 0 DC 0
VD4 D4 0 DC 0
VD5 D5 0 DC 0
VD6 D6 0 DC 0
VD7 D7 0 DC 0
*
.TRAN 0 2000n
.meas risetime TRIG v(Y)=0.33 TD=0 rise=1 TARG v(Y)=2.97 TD=0 rise=1
.meas falltime TRIG v(Y)=2.97 TD=0 fall=1 TARG v(Y)=0.33 TD=0 fall=1
.meas tpHL TRIG v(D0)=1.65 TD=0 fall=1 TARG v(Y)=1.65 TD=0 fall=1
.meas tpLH TRIG v(D0)=1.65 TD=0 rise=1 TARG v(Y)=1.65 TD=0 rise=1
.meas propagationdelay param=(tpHL+tpLH)/2
.meas chip_current I_vdd AVG I(VDD)
.include Z:\MOS_model.txt
.END
